US07001897B2
To a solution of 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}azetidine (820 mg, 2.74 mmol) (obtained as described in Reference Example 37(3)) in dimethylformamide (41 ml) were added t-butyldimethylsilyl chloride (495 mg, 3.29 mmol) and imidazole (224 mg, 3.29 mmol) in an ice bath, and then the reaction mixture was stirred in the ice bath overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1→1:2) as the eluant to afford 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine (731 mg, yield 65%) as a pale yellow oil.

reactant | 3-hydroxy-1-{4-[(1S)-1-(hydroxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 2.74 mmol, 820 mg | OC1CN(C1)C=1SC=C(N1)C(N[C@@H](CC(C)C)CO)=O | C13H21N3O3S
reactant | t-butyldimethylsilyl chloride | 3.29 mmol, 495 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.29 mmol, 224 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
product | 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine | 731 mg, yield 65% | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)NC(=O)C=1N=C(SC1)N1CC(C1)O | C19H35N3O3SSi
